US08227615B2
Step a: tert-butyl 3-(3-methylpyridin-4-yl)benzoate
4-Chloro-3-methylpyridine (2.00 g, 15.7 mmol), 3-(tert-butoxycarbonyl)phenylboronic acid (5.42 g, 24.4 mmol), a 2M aqueous solution of potassium carbonate (31.4 mL, 62.8 mmol), and palladium tetrakis(triphenylphosphine) (Pd(PPh3)4, 0.906 g, 0.784 mmol) were suspended in 1,2-dimethoxyethane (DME, 150 mL). The resulting mixture was stirred and heated to 80° C. for 60 hours. The crude reaction mixture was cooled to room temperature and then the layers were separated. The organic layer was evaporated to dryness and then purified on 120 g of silica gel utilizing a gradient of 0-70% ethyl acetate in hexanes to yield the pure product as a pale yellow oil (3.02 g, 11.2 mmol, 71.4%).

reactant | 4-Chloro-3-methylpyridine | 15.7 mmol, 2.00 g | ClC1=C(C=NC=C1)C | C6H6ClN
reactant | 3-(tert-butoxycarbonyl)phenylboronic acid | 24.4 mmol, 5.42 g | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)B(O)O | C11H15BO4
reactant | potassium carbonate | 62.8 mmol, 31.4 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 150 mL | COCCOC | C4H10O2
catalyst | palladium tetrakis(triphenylphosphine) | 0.784 mmol, 0.906 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | tert-butyl 3-(3-methylpyridin-4-yl)benzoate | 11.2 mmol, 3.02 g, 71.4% | CC=1C=NC=CC1C=1C=C(C(=O)OC(C)(C)C)C=CC1 | C17H19NO2
